US07482341B2
Step C]: N-[5-(4-Fluoro-benzyloxymethyl)-6-methyl-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-(4-fluoro-benzyloxymethyl)-6-methyl-pyridin-2-ylamine (0.08 g) and 3-(trifluoromethyl)-benzenesulfonyl chloride (0.087 g) as an amorphous orange solid (0.1 g). MS (ESI−): 453.2 ([M−H]−)

reactant | 5-(4-fluoro-benzyloxymethyl)-6-methyl-pyridin-2-ylamine | 0.08 g | FC1=CC=C(COCC=2C=CC(=NC2C)N)C=C1 | C14H15FN2O
reactant | 3-(trifluoromethyl)-benzenesulfonyl chloride | 0.087 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-[5-(4-Fluoro-benzyloxymethyl)-6-methyl-pyridin-2-yl]-3-trifluoromethyl-benzenesulfonamide | FC1=CC=C(COCC=2C=CC(=NC2C)NS(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)C=C1 | C21H18F4N2O3S
